US05284812
2,5-bis(furyl)thiazolo[5,4-d]thiazole was prepared from dithiooxamide and 2-furaldehyde. 2-furaldehyde (furfural) was purchased from Aldrich Chemical Company, Milwaukee, Wis.

reactant | dithiooxamide | NC(=S)C(=S)N | C2H4N2S2
reactant | 2-furaldehyde | O1C(=CC=C1)C=O | C5H4O2
product | 2,5-bis(furyl)thiazolo[5,4-d]thiazole | O1C(=CC=C1)C=1SC=2N=C(SC2N1)C=1OC=CC1 | C12H6N2O2S2
